US06225311B1
A solution of 0.57 g (1.67 mmol) of 4-[3-(4-chloro-phenyl)-prop-2-ynyloxy]-benzenesulfonyl chloride and 0.61 g (3.34 mmol, 2 eq) of sarcosine t-butyl ester hydrochloride in 0.51 mL of pyridine and 15 mL of chloroform was allowed to react overnight at room temperature. The reaction was concentrated in vacuo, diluted with water/ethyl acetate, neutralized with NaHCO3 and extracted with EtOAc (2×). The combined organics were washed with brine, dried over MgSO4, filtered and concentrated to afford a yellow oil which was purified via flash chormatography using 6:1 hexane: ethyl acetate to afford 0.396 g (53%) of tert-butyl [[(4-{[3-(4-chlorophenyl)-2-propynyl]oxy}phenyl)sulfonyl](methyl)amino]acetate as a white solid. Electrospray Mass Spec 450.4 (M+H)+

reactant | 4-[3-(4-chloro-phenyl)-prop-2-ynyloxy]-benzenesulfonyl chloride | 1.67 mmol, 0.57 g | ClC1=CC=C(C=C1)C#CCOC1=CC=C(C=C1)S(=O)(=O)Cl | C15H10Cl2O3S
reactant | sarcosine t-butyl ester hydrochloride | 3.34 mmol, 0.61 g, 2 eq | Cl.C(C)(C)(C)OC(CNC)=O
solvent | pyridine | 0.51 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl [[(4-{[3-(4-chlorophenyl)-2-propynyl]oxy}phenyl)sulfonyl](methyl)amino]acetate | 0.396 g, 53% | ClC1=CC=C(C=C1)C#CCOC1=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)OC(C)(C)C | C22H24ClNO5S
